US05854353
Purification of 1,1-Diphenylethylene (DPE)
Crude DPE (Aldrich or from reaction of phenylmagnesium bromide with acetophenone, acetylation with acetic anhydride and thermal elimination of acetic acid) is distilled through a column having at least 50 theoretical plates (spinning-band column; a Sulzer packed column for larger amounts) to a purity of 99.8%. The usually slightly yellow distillate is filtered through a 20 cm Alox column (Woelm alumina for chromatography, anhydrous), titrated with 1.5N sec-butyllithium to a deep red color and distilled off over a simple still head under reduced pressure (1 mbar). The resulting product is completely colorless and can be used directly in the anionic polymerization.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1-Diphenylethylene | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
